US05061726
A solution of 3,3-dimethyl-2-mercaptomethylbutan-1-ol (1.46 g), 4-ethynylbenzaldehyde (1.30 g) (W.B. Austin et al. J. Org. Chem., 1981, 46. 2280) and para-toluenesulphonic acid (10 mg) in benzene (50 ml) was heated to reflux overnight under Dean and Stark conditions. The resulting solution was evaporated under reduced pressure and the residue was purified on silica. Elution with 4:1 hexane: dichloromethane gave 5-t-butyl-2-(4-ethynylphenyl)-1,3-oxathiane as a mixture of isomers.

reactant | 3,3-dimethyl-2-mercaptomethylbutan-1-ol | 1.46 g | CC(C(CO)CS)(C)C | C7H16OS
reactant | 4-ethynylbenzaldehyde | 1.30 g | C(#C)C1=CC=C(C=O)C=C1 | C9H6O
reactant | para-toluenesulphonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 5-t-butyl-2-(4-ethynylphenyl)-1,3-oxathiane | C(C)(C)(C)C1CSC(OC1)C1=CC=C(C=C1)C#C | C16H20OS
